US20010016207A1
B. 4-piperazin-1-yl-benzoic acid hydrochlorid
4-piperazin-1-yl-benzoic acid methyl ester (17 mmol) is dissolved in 6N HCl (25 ml) and heated under reflux for 3 hours. The mixture is cooled in an ice bath to 0-4° C. and the solid material formed is filtered off, washed with acetone and dried (vacuum). A white powder with mp. >240° C. is obtained.

reactant | 4-piperazin-1-yl-benzoic acid methyl ester | 17 mmol | COC(C1=CC=C(C=C1)N1CCNCC1)=O | C12H16N2O2
reactant | HCl | 6N, 25 ml | Cl | ClH
product | 4-piperazin-1-yl-benzoic acid hydrochlorid | Cl.N1(CCNCC1)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C11H14N2O2.ClH/c14-11(15)9-1-3-10(4-2-9)13-7-5-12-6-8-13;/h1-4,12H,5-8H2,(H,14,15);1H
